US07176216B2
To a Suspension of 7-bromo-2-methyl-3-nitropyrazolo[1,5-a]pyridine (890 mg) in a mixed solution of ethanol (20 mL), water (10 mL) and acetic acid (2 mL) was added zinc powder (890 mg) at room temperature, and the reaction mixture was heated and stirred for 30 minutes at 60° C. After filtering off the insoluble residue, the filtrate was extracted with ethyl acetate and the organic extract was washed with saturated aqueous sodium bicarbonate and brine. The obtained organic extract was dried over anhydrous magnesium sulfate and filtered, the solvent was evaporated under reduced pressure, the residue was purified by silica gel column chromatography and [7-bromo-2-methylpyrazolo[1,5-a]pyridin-3-yl]amine (371 mg) was obtained as an brown oil from the n-hexane:ethyl acetate (1:1) fraction.

reactant | 7-bromo-2-methyl-3-nitropyrazolo[1,5-a]pyridine | 890 mg | BrC1=CC=CC=2N1N=C(C2[N+](=O)[O-])C | C8H6BrN3O2
reactant | ethanol | 20 mL | C(C)O | C2H6O
reactant | water | 10 mL | O | H2O
catalyst | zinc | 890 mg | [Zn] | Zn
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | [7-bromo-2-methylpyrazolo[1,5-a]pyridin-3-yl]amine | 371 mg | BrC1=CC=CC=2N1N=C(C2N)C | C8H8BrN3
